US06603012B2
29.1. Preparation of 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic Acid
2 g of (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic acid dissolved in 100 ml THF were treated with 9.6 ml of a 2M lithium diisopropylamide solution, at −23° C. The mixture was kept at that temperature for 15 min. then, 1.19 ml of methyl iodide were added dropwise. The reaction mixture was kept at 0° C. for 4 hours then allowed to warm at room temperature for several days. The mixture was quenched with 100 ml of 1N hydrochloric acid solution. The mixture was extracted with three portions of 100 ml of ethyl acetate. The combined organic extracts were washed with 100 ml of a saturated aqueous sodium chloride solution. The organic phase was dried with MgSO4, and the solvent was evaporated. The yellow oil was purified by flash chromatography (SiO2, 20% ethyl acetate/hexanes). 1H NMR (CDCl3): 7.31 (d, J=2.2 Hz, 1H), 7.24 (d, J=8.3 Hz, 1H), 7.15 (dd, J=8.3, 2.2 Hz, 1H), 1.67 (s, 4H), 1.58 (s, 6H), 1.27 (s, 6H), 1.26 (s, 6H).

reactant | (RS)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic acid | 2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)O)C)C | C17H24O2
reactant | lithium diisopropylamide | 2M | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | 1.19 ml | CI | CH3I
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2-methyl-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-propanoic Acid | CC(C(=O)O)(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C18H26O2
